US04958026
N,N-Dimethyl-N-[2-(3-methoxy-4-nitrophenyl)ethenyl]amine
83.5 of 5-methyl-2-nitroanisole and 162.0 g of tert-butoxybis(dimenthylamino)methane is heated for 8 hours to 100° C. After cooling, 111.0 g of N,N-dimenthyl-N-[2-(3-methoxy-4-nitrophenyl)ethenyl]amine is crystallized, mp 57°-58.5° C.

reactant | 5-methyl-2-nitroanisole | CC=1C=CC(=C(C1)OC)[N+](=O)[O-] | C8H9NO3
reactant | tert-butoxybis(dimenthylamino)methane | 162.0 g | C(C)(C)(C)OC(N(C1CC(CCC1C(C)C)C)C1CC(CCC1C(C)C)C)N(C1CC(CCC1C(C)C)C)C1CC(CCC1C(C)C)C | C45H86N2O
product | N,N-Dimethyl-N-[2-(3-methoxy-4-nitrophenyl)ethenyl]amine | CN(C=CC1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C11H14N2O3
